* DC regulation OP test - 50mA (CRITICAL - cascode fix verification)
.title T1e 50mA OP

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

Vbvdd bvdd 0 7
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0
Rload pvdd 0 100

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.nodeset V(pvdd)=5.0 V(xdut.gate)=4.5 V(xdut.vfb)=1.226 V(xdut.vref_ss)=1.226 V(xdut.ea_out)=4.5
.op
.control
op
echo "=== T1e 50mA (CRITICAL) ==="
echo "pvdd = $&v(pvdd)"
echo "iload_mA = $&v(pvdd)/100*1e3"
echo "vfb = $&v(xdut.vfb)"
echo "gate = $&v(xdut.gate)"
echo "sense_n = $&v(xdut.xilim.sense_n)"
echo "det_n = $&v(xdut.xilim.det_n)"
echo "cas_mid = $&v(xdut.xilim.cas_mid)"
echo "ea_out = $&v(xdut.ea_out)"
quit
.endc
.end
